US08080669B2
A solution of N-(5-(ethoxymethyl)-2-methylphenyl)ethanamide (344 mg, 1.66 mmol) in DMF (5 mL) was added to a suspension of NaH (133 mg, 3.32 mmol, 60% dispersion in mineral oil) in DMF (5 mL) at 0° C. under an atmosphere of argon. The mixture was stirred for 1 h at room temperature and cooled to 0° C. A solution of 2-chloro-5-(2-chloropyridin-4-yl)oxazole (357 mg, 1.66 mmol) in DMF (5 mL) was added dropwise to the mixture. After 1 h at 0° C., the reaction was poured into ice water (20 mL) and extracted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4) and filtered. After removal of solvent the residue was silica gel column chromatographed (CH2Cl2/Ethanol:98/2) to give 474 mg of 5-(2-chloropyridin-4-yl)-N-(5-(ethoxymethyl)-2-methylphenyl) oxazol-2-amine (83%) as a beige solide.

reactant | N-(5-(ethoxymethyl)-2-methylphenyl)ethanamide | 1.66 mmol, 344 mg | C(C)OCC=1C=CC(=C(C1)NC(C)=O)C | C12H17NO2
reactant | NaH | 3.32 mmol, 133 mg | [H-].[Na+]
reactant | 2-chloro-5-(2-chloropyridin-4-yl)oxazole | 1.66 mmol, 357 mg | ClC=1OC(=CN1)C1=CC(=NC=C1)Cl | C8H4Cl2N2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-(2-chloropyridin-4-yl)-N-(5-(ethoxymethyl)-2-methylphenyl) oxazol-2-amine | 474 mg, 83% | ClC1=NC=CC(=C1)C1=CN=C(O1)NC1=C(C=CC(=C1)COCC)C | C18H18ClN3O2
